US06599901B1
2-oxo-1-Pyridin-2-ylmethyl-1,2-dihydro-pyridine-4-carboxylic Acid (4-Methoxy-7-morpholin-4-yl-benzothiazol-2-yl)-amide
From 2-methoxy-N-(4-methoxy-7-morpholin-4-yl -benzothiazol-2-yl)-isonicotinamide with sodium iodide and 2-(bromoethyl)pyridine hydrobromide in DMF. ES-MS m/e (%): 500 (M+Na+, 30), 478 (M+H+, 100).

reactant | 2-methoxy-N-(4-methoxy-7-morpholin-4-yl -benzothiazol-2-yl)-isonicotinamide | COC=1C=C(C(=O)NC=2SC3=C(N2)C(=CC=C3N3CCOCC3)OC)C=CN1 | C19H20N4O4S
reactant | sodium iodide | [I-].[Na+]
reactant | 2-(bromoethyl)pyridine hydrobromide | Br.BrCCC1=NC=CC=C1
solvent | DMF | CN(C)C=O | C3H7NO
product | 2-oxo-1-Pyridin-2-ylmethyl-1,2-dihydro-pyridine-4-carboxylic Acid (4-Methoxy-7-morpholin-4-yl-benzothiazol-2-yl)-amide | COC1=CC=C(C2=C1N=C(S2)NC(=O)C2=CC(N(C=C2)CC2=NC=CC=C2)=O)N2CCOCC2 | C24H23N5O4S
